### PR TITLE
[Merged by Bors] - feat(RingTheory): define graded ring homomorphisms

### PR DESCRIPTION
**Pull request by kckennylau**
This PR defines graded ring homomorphisms, which are ring homomorphisms that preserve the grading. We also provide the basic properties (aka the "API").

Zulip discussion: [#mathlib4 > Graded Ring Hom](https://leanprover.zulipchat.com/#narrow/channel/287929-mathlib4/topic/Graded.20Ring.20Hom/with/543601500)

---

Split from #26061.

- [x] depends on: #30355 

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/RingTheory/GradedAlgebra/Hom.lean [hunk 1]
```diff
@@ -0,0 +1,341 @@
...
+-- until we actually need them.
+/-- `GradedRingHomClass F 𝒜 ℬ` states that `F` is a type of graded (semi)ring homomorphisms.
+You should extend this class when you extend `GradedRingHom`.
+
+Unlike the other hom classes, this class **extends** `FunLike`, so it is **not necessary** to repeat
+`[FunLike A B]` in the assumptions. -/
+class GradedRingHomClass (F : Type*) {ι A B σ τ : outParam Type*}
+    [Semiring A] [Semiring B] [SetLike σ A] [SetLike τ B]
+    (𝒜 : outParam (ι → σ)) (ℬ : outParam (ι → τ)) : Type _
+    extends FunLike F A B, RingHomClass F A B where
```
Comment (plp127) [inline Mathlib/RingTheory/GradedAlgebra/Hom.lean]: Will this show up in every `FunLike` search?

Comment (kckennylau) [reply Mathlib/RingTheory/GradedAlgebra/Hom.lean]: Maybe we can turn down its priority?

**Comment by kckennylau** [comment]
While defining graded alg homs and GradedAlgHomClass I realised that I might still want to do it via mixin, but still extend FunLike, so something like `[GradedFunLike F 𝒜 ℬ] [GradedRingHomClass F 𝒜 ℬ]`. Under this refactor, the only bad FunLike search path would be FunLike -> GradedFunLike, which again we can lower its priority.

**Comment by kckennylau** [comment]
So I realised I don't need `GradedRingHomClass` and `GradedAlgHomClass` anymore (see #30355).
(but I still need `GradedRingHom` and `GradedAlgHom`.)

File: Mathlib/RingTheory/GradedAlgebra/RingHom.lean [hunk 2]
```diff
@@ -0,0 +1,324 @@
...
+-/
+
+variable {ι A B C D σ τ ψ ω : Type*}
+  [Semiring A] [Semiring B] [Semiring C] [Semiring D]
+  [SetLike σ A] [SetLike τ B] [SetLike ψ C] [SetLike ω D]
+
+section SetLike
+
+/-- Bundled graded (semi)ring homomorphisms. Use `GradedRingHom` for the namespace,
+and `GRingHom` for other identifiers, and `𝒜 →+*ᵍ ℬ` for the notation. -/
```
Comment (chrisflav) [inline Mathlib/RingTheory/GradedAlgebra/RingHom.lean]:
```suggestion
and `GradedRingHom` for other identifiers, and `𝒜 →+*ᵍ ℬ` for the notation. -/
```
Please don't use opaque abbreviations.

File: Mathlib/RingTheory/GradedAlgebra/RingHom.lean [hunk 3]
```diff
@@ -0,0 +1,324 @@
...
+structure GradedRingHom (𝒜 : ι → σ) (ℬ : ι → τ) extends A →+* B where
+  map_mem' {i : ι} {x : A} : x ∈ 𝒜 i → toRingHom x ∈ ℬ i
```
Comment (chrisflav) [inline Mathlib/RingTheory/GradedAlgebra/RingHom.lean]:
```suggestion
  map_mem {i : ι} {x : A} : x ∈ 𝒜 i → toRingHom x ∈ ℬ i
```
Why does this have a prime?

Comment (chrisflav) [reply Mathlib/RingTheory/GradedAlgebra/RingHom.lean]: You don't seem to define the unprimed version.

File: Mathlib/RingTheory/GradedAlgebra/RingHom.lean [hunk 4]
```diff
@@ -0,0 +1,324 @@
...
+/-- Any type satisfying `GradedRingHomClass` can be cast into `GradedRingHom` via
+`GradedRingHomClass.toGRingHom`. -/
+instance instCoeOfClass : CoeTC F (𝒜 →+*ᵍ ℬ) :=
+  ⟨ofClass⟩
+
+end ofClass
+
+section coe
+
+instance instGradedFunLike : GradedFunLike (𝒜 →+*ᵍ ℬ) 𝒜 ℬ where
```
Comment (chrisflav) [inline Mathlib/RingTheory/GradedAlgebra/RingHom.lean]:
```suggestion
instance : CoeTC F (𝒜 →+*ᵍ ℬ) :=
  ⟨ofClass⟩

end ofClass

section coe

instance : GradedFunLike (𝒜 →+*ᵍ ℬ) 𝒜 ℬ where
```
Why do you name these?

File: Mathlib/RingTheory/GradedAlgebra/RingHom.lean [hunk 5]
```diff
@@ -0,0 +1,324 @@
...
+instance instRingHomClass : RingHomClass (𝒜 →+*ᵍ ℬ) A B where
+  map_add f := f.map_add'
+  map_zero f := f.map_zero'
+  map_mul f := f.map_mul'
+  map_one f := f.map_one'
+
+initialize_simps_projections GradedRingHom (toFun → apply)
+
+theorem toFun_eq_coe (f : 𝒜 →+*ᵍ ℬ) : f.toFun = f :=
+  rfl
```
Comment (chrisflav) [inline Mathlib/RingTheory/GradedAlgebra/RingHom.lean]:
```suggestion
@[simp]
theorem toFun_eq_coe (f : 𝒜 →+*ᵍ ℬ) : f.toFun = f :=
  rfl
```
But `simpNF` won't like it, there is some issue with coercions not triggering in the right order.

File: Mathlib/RingTheory/GradedAlgebra/RingHom.lean [hunk 6]
```diff
@@ -0,0 +1,324 @@
...
+actual `GradedRingHom`. This is declared as the default coercion from `F` to `𝒜 →+*ᵍ ℬ`. -/
+@[coe]
+def ofClass (f : F) : 𝒜 →+*ᵍ ℬ where
+  __ := (f : A →+* B)
+  map_mem' := map_mem f
+
+/-- Any type satisfying `GradedRingHomClass` can be cast into `GradedRingHom` via
+`GradedRingHomClass.toGRingHom`. -/
+instance instCoeOfClass : CoeTC F (𝒜 →+*ᵍ ℬ) :=
+  ⟨ofClass⟩
```
Comment (chrisflav) [inline Mathlib/RingTheory/GradedAlgebra/RingHom.lean]: We should not have this, we are trying to get rid of this globally.

Comment (kckennylau) [reply Mathlib/RingTheory/GradedAlgebra/RingHom.lean]: done

File: Mathlib/RingTheory/GradedAlgebra/RingHom.lean [hunk 7]
```diff
@@ -0,0 +1,315 @@
...
+protected theorem map_one (f : 𝒜 →+*ᵍ ℬ) : f 1 = 1 :=
+  map_one f
+
+/-- Graded ring homomorphisms preserve addition. -/
+protected theorem map_add (f : 𝒜 →+*ᵍ ℬ) : ∀ a b, f (a + b) = f a + f b :=
+  map_add f
+
+/-- Graded ring homomorphisms preserve multiplication. -/
+protected theorem map_mul (f : 𝒜 →+*ᵍ ℬ) : ∀ a b, f (a * b) = f a * f b :=
+  map_mul f
```
Comment (chrisflav) [inline Mathlib/RingTheory/GradedAlgebra/RingHom.lean]: Could you please put the `a` and `b` to the left of the `:`?

File: Mathlib/RingTheory/GradedAlgebra/RingHom.lean [hunk 8]
```diff
@@ -0,0 +1,315 @@
...
+
+variable [AddSubmonoidClass σ A] [AddSubmonoidClass τ B]
+
+section
+variable (𝒜 : ι → σ) (ℬ : ι → τ)
+variable {F : Type*} [FunLike F A B] [GradedFunLike F 𝒜 ℬ] [RingHomClass F A B]
+
+-- Note: if `GradedAddHom` is added later, then the assumptions can be relaxed.
+/-- A graded ring homomorphism descends to an additive homomorphism on each indexed component. -/
+@[simps!] def gradedAddHom (f : F) (i : ι) : 𝒜 i →+ ℬ i where
```
Comment (chrisflav) [inline Mathlib/RingTheory/GradedAlgebra/RingHom.lean]: This is a definition, so we should define it for `GradedRingHom` instead.

File: Mathlib/RingTheory/GradedAlgebra/RingHom.lean [hunk 9]
```diff
@@ -0,0 +1,315 @@
...
+
+end
+
+section
+variable [AddMonoid ι] (𝒜 : ι → σ) (ℬ : ι → τ) [SetLike.GradedMonoid 𝒜] [SetLike.GradedMonoid ℬ]
+variable {F : Type*} [FunLike F A B] [GradedFunLike F 𝒜 ℬ] [RingHomClass F A B]
+
+/-- A graded ring homomorphism descends to a ring homomorphism on the zeroth component. -/
+@[simps!] def gradedZeroRingHom (f : F) : 𝒜 0 →+* ℬ 0 where
+  __ := gradedAddHom _ _ f 0
```
Comment (chrisflav) [inline Mathlib/RingTheory/GradedAlgebra/RingHom.lean]: same here.

File: Mathlib/RingTheory/GradedAlgebra/RingHom.lean [hunk 10]
```diff
@@ -0,0 +1,315 @@
...
+lemma decompose_map (f : F) {x : A} :
+    DirectSum.decompose ℬ (f x) = .map (gradedAddHom _ _ f) (.decompose 𝒜 x) := by
+  classical
+  rw [← DirectSum.sum_support_decompose 𝒜 x, map_sum, DirectSum.decompose_sum,
+    DirectSum.decompose_sum, map_sum]
+  congr 1
+  ext n : 1
+  rw [DirectSum.decompose_of_mem _ (map_mem f (Subtype.prop _)),
+    DirectSum.decompose_of_mem _ (Subtype.prop _), DirectSum.map_of]
+  rfl
```
Comment (chrisflav) [inline Mathlib/RingTheory/GradedAlgebra/RingHom.lean]:
```suggestion
  simp [DirectSum.decompose_of_mem _ (map_mem f (Subtype.prop _)),
    DirectSum.decompose_of_mem _ (Subtype.prop _), DirectSum.map_of, gradedAddHom]
```

File: Mathlib/RingTheory/GradedAlgebra/RingHom.lean [hunk 11]
```diff
@@ -0,0 +1,315 @@
...
+
+end
+
+section GradedRing
+variable [DecidableEq ι] [AddMonoid ι] (𝒜 : ι → σ) (ℬ : ι → τ) [GradedRing 𝒜] [GradedRing ℬ]
+variable {F : Type*} [FunLike F A B] [GradedFunLike F 𝒜 ℬ] [RingHomClass F A B]
+
+-- not simp because `𝒜` cannot be inferred
+lemma decompose_map (f : F) {x : A} :
+    DirectSum.decompose ℬ (f x) = .map (gradedAddHom _ _ f) (.decompose 𝒜 x) := by
```
Comment (chrisflav) [inline Mathlib/RingTheory/GradedAlgebra/RingHom.lean]: This is in the root namespace, where it should probably not be. Maybe move to `GradedFunLike`?

File: Mathlib/RingTheory/GradedAlgebra/RingHom.lean [hunk 12]
```diff
@@ -0,0 +1,315 @@
...
+  rfl
+
+-- not simp because `ℬ` cannot be inferred
+-- for every concrete instance of GradedFunLike, we need one simp lemma
+lemma map_coe_decompose (f : F) {x : A} {i : ι} :
+    f (DirectSum.decompose 𝒜 x i) = DirectSum.decompose ℬ (f x) i := by
+  simp [decompose_map 𝒜]
+
+@[simp] lemma map_decompose (f : 𝒜 →+*ᵍ ℬ) {x : A} {i : ι} :
+    f (DirectSum.decompose 𝒜 x i) = DirectSum.decompose ℬ (f x) i := map_coe_decompose _ _ f
```
Comment (chrisflav) [inline Mathlib/RingTheory/GradedAlgebra/RingHom.lean]:
```suggestion
@[simp] lemma GradedRingHom.map_decompose (f : 𝒜 →+*ᵍ ℬ) {x : A} {i : ι} :
    f (DirectSum.decompose 𝒜 x i) = DirectSum.decompose ℬ (f x) i := map_coe_decompose _ _ f
```

Comment (kckennylau) [reply Mathlib/RingTheory/GradedAlgebra/RingHom.lean]: per private discussions, `map_directSumDecompose`

File: Mathlib/RingTheory/GradedAlgebra/RingHom.lean (hunk 11 above)
Comment (kckennylau) [reply Mathlib/RingTheory/GradedAlgebra/RingHom.lean]: probably `DirectSum.decompose_map`

File: Mathlib/RingTheory/GradedAlgebra/RingHom.lean (hunk 7 above)
Comment (kckennylau) [reply Mathlib/RingTheory/GradedAlgebra/RingHom.lean]: done

File: Mathlib/RingTheory/GradedAlgebra/RingHom.lean (hunk 8 above)
Comment (kckennylau) [reply Mathlib/RingTheory/GradedAlgebra/RingHom.lean]: done

File: Mathlib/RingTheory/GradedAlgebra/RingHom.lean (hunk 9 above)
Comment (kckennylau) [reply Mathlib/RingTheory/GradedAlgebra/RingHom.lean]: done

File: Mathlib/RingTheory/GradedAlgebra/RingHom.lean (hunk 10 above)
Comment (kckennylau) [reply Mathlib/RingTheory/GradedAlgebra/RingHom.lean]: done

File: Mathlib/RingTheory/GradedAlgebra/RingHom.lean (hunk 11 above)
Comment (kckennylau) [reply Mathlib/RingTheory/GradedAlgebra/RingHom.lean]: done

File: Mathlib/RingTheory/GradedAlgebra/RingHom.lean (hunk 12 above)
Comment (kckennylau) [reply Mathlib/RingTheory/GradedAlgebra/RingHom.lean]: done

File: Mathlib/RingTheory/GradedAlgebra/RingHom.lean [hunk 13]
```diff
@@ -0,0 +1,299 @@
...
+
+* `GradedRingHom`: Graded (semi)ring homomorphisms. Ring homomorphism which preserves the grading.
+
+## Notation
+
+* `→+*ᵍ`: Graded (semi)ring hom.
+
+## Implementation notes
+
+* We don't really need the fact that they are graded rings until the theorem `decompose_map` which
```
Comment (chrisflav) [inline Mathlib/RingTheory/GradedAlgebra/RingHom.lean]:
```suggestion
* We don't really need the fact that they are graded rings until the theorem `decompose_directSumMap` which
```

File: Mathlib/RingTheory/GradedAlgebra/RingHom.lean [hunk 14]
```diff
@@ -0,0 +1,299 @@
...
+
+section GradedRing
+variable [DecidableEq ι] [AddMonoid ι] [AddSubmonoidClass σ A] [AddSubmonoidClass τ B]
+variable (𝒜 : ι → σ) (ℬ : ι → τ) [GradedRing 𝒜] [GradedRing ℬ]
+variable {F : Type*} [FunLike F A B] [GradedFunLike F 𝒜 ℬ] [RingHomClass F A B]
+
+-- not simp because `𝒜` cannot be inferred
+lemma DirectSum.decompose_map (f : F) {x : A} :
+    DirectSum.decompose ℬ (f x) =
+    .map (GradedRingHom.gradedAddHom <| .ofClass f) (.decompose 𝒜 x) := by
```
Comment (chrisflav) [inline Mathlib/RingTheory/GradedAlgebra/RingHom.lean]:
```suggestion
      .map (GradedRingHom.gradedAddHom <| .ofClass f) (.decompose 𝒜 x) := by
```

File: Mathlib/RingTheory/GradedAlgebra/RingHom.lean [hunk 15]
```diff
@@ -0,0 +1,299 @@
...
+  simp [DirectSum.decompose_of_mem _ (map_mem f (Subtype.prop _)),
+    DirectSum.decompose_of_mem _ (Subtype.prop _), DirectSum.map_of, GradedRingHom.gradedAddHom]
+
+-- not simp because `ℬ` cannot be inferred
+-- for every concrete instance of GradedFunLike, we need one simp lemma
+lemma map_directSumDecompose (f : F) {x : A} {i : ι} :
+    f (DirectSum.decompose 𝒜 x i) = DirectSum.decompose ℬ (f x) i := by
+  simp [DirectSum.decompose_map 𝒜]
+
+@[simp] lemma GradedRingHom.map_decompose (f : 𝒜 →+*ᵍ ℬ) {x : A} {i : ι} :
```
Comment (chrisflav) [inline Mathlib/RingTheory/GradedAlgebra/RingHom.lean]:
```suggestion
@[simp] lemma GradedRingHom.map_directSumDecompose (f : 𝒜 →+*ᵍ ℬ) {x : A} {i : ι} :
```
For consistency?

**Review by chrisflav — APPROVED** [review]
Thanks!
maintainer delegate

**Comment by riccardobrasca** [comment]
Thanks!

bors d+
